US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline (360 mg, 1.00 mmol), (prepared as described for the starting material in Example 152), potassium carbonate (215 mg, 1.56 mmol) and 2,3-dimethyl-5-hydroxyindole (177 mg, 1.10 mmol), (Arch. Pharm. 1972, 305, 159), in DMF (8.0 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The solvent was removed by evaporation and the residue purified by silica column chromatography eluting with methanol (2.5%) in dichloromethane. The resulting solid was recrystallised from tertbutyl methyl ether/acetonitrile, filtered and washed with diethyl ether to give 4-(2,3-dimethylindol-5yloxy)-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline (201 mg, 42%).

reactant | 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline | 1.00 mmol, 360 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(S(=O)(=O)C)C | C14H18ClN3O4S
reactant | potassium carbonate | 1.56 mmol, 215 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dimethyl-5-hydroxyindole | 1.10 mmol, 177 mg | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
product | 4-(2,3-dimethylindol-5yloxy)-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline | 201 mg, 42% | CC=1NC2=CC=C(C=C2C1C)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(S(=O)(=O)C)C | C24H28N4O5S
